US07001897B2
To a solution of (3R)-3-azido-1-(p-nitrobenzyloxycarbonyl)pyrrolidine (4.48 g, 15.4 mmol) (obtained as described in Reference Example 53(4)) in acetonitrile (134 ml) was added triphenylphosphine (4.22 g, 16.1 mmol), and the mixture was stirred in an oil bath (70° C.) for 1.5 hours. After checking the disappearance of the raw materials, sodium sulfate decahydrate (5.19 g, 16.1 mmol) was added thereto and then the reaction mixture was stirred for 5 hours. After checking the completion of the reaction, the reaction mixture was filtered and partitioned between methylene chloride and 0.1M aqueous hydrogen chloride solution. To the obtained aqueous layer were added methylene chloride and sodium hydrogencarbonate, and the aqueous layer was extracted with methylene chloride. The obtained organic layer was dried over anhydrous sodium sulfate, filtered and concentrated under reduced pressure. The residue was dried under reduced pressure to give (3R)-3-amino-1-(p-nitrobenzyloxycarbonyl)pyrrolidine (3.53 g, yield 86%) as pale yellow crystals.

reactant | (3R)-3-azido-1-(p-nitrobenzyloxycarbonyl)pyrrolidine | 15.4 mmol, 4.48 g | N(=[N+]=[N-])[C@H]1CN(CC1)C(=O)OCC1=CC=C(C=C1)[N+](=O)[O-] | C12H13N5O4
reactant | triphenylphosphine | 16.1 mmol, 4.22 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | sodium sulfate decahydrate | 16.1 mmol, 5.19 g | O.O.O.O.O.O.O.O.O.O.S(=O)(=O)([O-])[O-].[Na+].[Na+]
solvent | acetonitrile | 134 ml | C(C)#N | C2H3N
product | (3R)-3-amino-1-(p-nitrobenzyloxycarbonyl)pyrrolidine | 3.53 g, yield 86% | N[C@H]1CN(CC1)C(=O)OCC1=CC=C(C=C1)[N+](=O)[O-] | C12H15N3O4
